US04012521
Chloromethylbenzoyl sulfide
42 PARTS OF PHOSPHORUS PENTACHLORIDE IS COVERED WITH A LAYER OF ABSOLUTE ETHER. While stirring and cooling with ice, an ethereal solution of 33.6 parts of hydroxymethylbenzoyl sulfide is dripped in and the whole stirred for 2 hours at room temperature. The solution is filtered, the filtrate concentrated at 0.01 mm and a bath temperature of 40° C, the residue taken up in methylene chloride and washed with cold aqueous NaNHCO3 solution. The organic phase is dried over Na2SO4 and distilled 20 parts of chloromethylbenzoyl sulfide having a boiling point at 0.1 mm of 111° to 113° C is obtained.

reactant | PHOSPHORUS PENTACHLORIDE | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hydroxymethylbenzoyl sulfide | OCSC(C1=CC=CC=C1)=O | C8H8O2S
solvent | ETHER | CCOCC | C4H10O
product | Chloromethylbenzoyl sulfide | ClCSC(C1=CC=CC=C1)=O | C8H7ClOS
